US08957074B2
Following general N—C coupling procedure 1, (S)-3-(6-Amino-pyridin-3-yl)-2-oxo-1-oxa-3,7-diaza-spiro[4.5]decane-7-carboxylic acid tert-butyl ester was combined with 2-Chloro-7-cyclopentyl-7H-pyrrolo[2,3-d]pyrimidine-6-carboxylic acid dimethylamide which gave (S)-3-[6-(7-Cyclopentyl-6-dimethylcarbamoyl-7H-pyrrolo[2,3-d]pyrimidin-2-ylamino)-pyridin-3-yl]-2-oxo-1-oxa-3,7-diaza-spiro[4.5]decane-7-carboxylic acid tert-butyl ester as a white solid (0.115 g, 0.190 mmol in 43% yield. 1H NMR (400 MHz, CDCl3) δ ppm 1.37-1.51 (m, 13H) 1.51-1.69 (m, 3H) 1.69-1.84 (m, 2H) 1.85-2.15 (m, 11H) 2.47-2.68 (m, 2H) 3.10-3.19 (m, 6H) 3.19-3.33 (m, 2H) 3.43 (d, J=14.05 Hz, 1H) 3.58-3.71 (m, 2H) 3.71-3.80 (m, 2H) 3.85 (d, J=9.03 Hz, 2H) 4.12 (q, J=7.03 Hz, 1H) 4.44 (br. s., 1H) 4.80 (quin, J=8.78 Hz, 1H) 6.46 (s, 1H) 7.87-7.99 (m, 1H) 8.11 (dd, J=9.29, 2.76 Hz, 1H) 8.21 (br. s., 1H) 8.30 (br. s., 1H) 8.52 (d, J=9.03 Hz, 1H) 8.75 (s, 1H). MS m/z 605.5 (M+H)+.

reactant | (S)-3-(6-Amino-pyridin-3-yl)-2-oxo-1-oxa-3,7-diaza-spiro[4.5]decane-7-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C[C@]2(CN(C(O2)=O)C=2C=NC(=CC2)N)CCC1 | C17H24N4O4
reactant | 2-Chloro-7-cyclopentyl-7H-pyrrolo[2,3-d]pyrimidine-6-carboxylic acid dimethylamide | CN(C(=O)C1=CC2=C(N=C(N=C2)Cl)N1C1CCCC1)C | C14H17ClN4O
product | (S)-3-[6-(7-Cyclopentyl-6-dimethylcarbamoyl-7H-pyrrolo[2,3-d]pyrimidin-2-ylamino)-pyridin-3-yl]-2-oxo-1-oxa-3,7-diaza-spiro[4.5]decane-7-carboxylic acid tert-butyl ester | 43% yield | C(C)(C)(C)OC(=O)N1C[C@]2(CN(C(O2)=O)C=2C=NC(=CC2)NC=2N=CC3=C(N2)N(C(=C3)C(N(C)C)=O)C3CCCC3)CCC1 | C31H40N8O5
